US04137080
(b) Synthesis of N-(2'-Hydroxy-5'-aminophenyl)-2-hydroxy-5-aminobenzylamine trihydrochloride
16 g. of N-(2'-hydroxy-5'-nitrophenyl)-2-hydroxy-5-nitrobenzylamine was dissolved in 150 ml. of methanol. After addition of 2 g. of palladium/C as catalyst, the catalytic reduction was effected for about 3 hours. The precipitated crystals were dissolved in concentrated hydrochloric acid and filtered. The filtrate was concentrated, charged with 100 ml. of an alcohol and heated for 2 hours to obtain the end product in the form of white crystals. The melting point of the end product was 200°-240° C. (decomp.), and the yield was 12 g.

reactant | N-(2'-hydroxy-5'-nitrophenyl)-2-hydroxy-5-nitrobenzylamine | OC1=C(C=C(C=C1)[N+](=O)[O-])NCC1=C(C=CC(=C1)[N+](=O)[O-])O | C13H11N3O6
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium | [Pd] | Pd
product | N-(2'-Hydroxy-5'-aminophenyl)-2-hydroxy-5-aminobenzylamine trihydrochloride | Cl.Cl.Cl.OC1=C(C=C(C=C1)N)NCC1=C(C=CC(=C1)N)O | InChI=1S/C13H15N3O2.3ClH/c14-9-1-3-12(17)8(5-9)7-16-11-6-10(15)2-4-13(11)18;;;/h1-6,16-18H,7,14-15H2;3*1H
